US05443596
Step 4: preparation of 3-methylamino-2,6-dimethoxyphenol.
On addition of ethanolic hydrogen chloride, 3-methylamino-2,6-dimethoxyphenol hydrochloride is precipitated, which product is recrystallized from isopropanol.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-methylamino-2,6-dimethoxyphenol hydrochloride | Cl.CNC=1C(=C(C(=CC1)OC)O)OC
product | 3-methylamino-2,6-dimethoxyphenol | CNC=1C(=C(C(=CC1)OC)O)OC | C9H13NO3
